US04536508
1-Methyl-5-[[4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino]-1H-1,2,4-triazole-3-methanol
A suspension of methyl 1-methyl-5-[[1-oxo-4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino]-1H-1,2,4-triazole-3-carboxylate (1.25 g) and lithium aluminium hydride (1.0 g) in tetrahydrofuran (30 ml) was stirred under nitrogen at room temperature for 5 h, cooled to 0° and quenched with water. The mixture was diluted with ethyl acetate, filtered and the filtrate was evaporated in vacuo. The residue was chromatographed to give an oil, which crystallised on trituration with ether to yield the title compound as a white solid (0.33 g) m.p. 84°-5°, tlc System B,Rf 0.6.

reactant | methyl 1-methyl-5-[[1-oxo-4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino]-1H-1,2,4-triazole-3-carboxylate | 1.25 g | CN1N=C(N=C1NC(CCCOC1=CC(=CC=C1)CN1CCCCC1)=O)C(=O)OC | C21H29N5O4
reactant | lithium aluminium hydride | 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-Methyl-5-[[4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino]-1H-1,2,4-triazole-3-methanol | 0.33 g | CN1N=C(N=C1NCCCCOC1=CC(=CC=C1)CN1CCCCC1)CO | C20H31N5O2
